### PR TITLE
lemmas about within-continuity

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

We'd like to propose the following lemmas about within-continuity.
They are being used in another development.
In `within_continuous_comp`, `R : realFieldType` looks generalizable.
Has anybody an idea?

Co-authored-by: @holgerthies

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype_theory/pseudometric_normed_Zmodule.v [hunk 1]
```diff
@@ -1159,6 +1159,32 @@ Proof. by rewrite norm_cvg0P. Qed.
...
+    {V : pseudoMetricNormedZmodType K} (A : set T) (f g : T -> V) :
+  {within A, continuous f} -> {within A, continuous g} ->
+  {within A, continuous (f + g)}.
+Proof. by move=> cf cg x; apply: cvgD; [exact: cf|exact: cg]. Qed.
+
+Lemma within_continuous_comp {U : topologicalType} {R : realFieldType}
+  (A : set R) (f : R -> U) (g : U -> R) :
+  {in f @` A, continuous g} ->
+  {within A, continuous f} ->
+  {within A, continuous (g \o f)}.
```
Comment (CohenCyril) [inline theories/normedtype_theory/pseudometric_normed_Zmodule.v]:
```suggestion
Lemma within_continuous_comp {U V W : topologicalType} 
  (A : set U) (f : U -> V) (g : V -> W) :
  {in f @` A, continuous g} ->
  {within A, continuous f} ->
  {within A, continuous (g \o f)}.
```

Comment (CohenCyril) [reply theories/normedtype_theory/pseudometric_normed_Zmodule.v]: essentially because
```coq
{within A, continuous f} <-> continuous (f : A -> f @` A)
```

Comment (affeldt-aist) [reply theories/normedtype_theory/pseudometric_normed_Zmodule.v]: Indeed, thanks!
